US06716851B2
4-(5-Amino-2-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
To a solution of 4-(2-methyl,5-nitroanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (75 mg, 0.200 mmol) in anhydrous ethanol (10 ml) was added slowly anhydrous tin chloride (152 mg, 0.800 mmol). The mixture was refluxed for 1 h and then rotary evaporated to leave a brown oil. The brown oil was basified with 2N NaOH to give a final pH of 8. The resulting precipitate was filtered and washed with ethyl acetate. The aqueous phase and organic phase was combined, washed with water (1×20 ml) and dried over anhydrous sodium sulfate. The ethyl acetate was rotary evaporated to dryness to give a dark yellow solid (33 mg, 44%). 1H NMR (CDCl3): 9.69-9.68 (m, 1H), 8.73-8.67 (m, 2H), 7.53 (s, 1H), 7.43-7.39 (m, 1H), 7.11 (d, J=8.4 Hz, 1H), 6.72 (s, 1H), 6.64 (d, J=2.7 Hz, 1H), 6.61 (s, 1H), 3.01 (bs, 2H), 2.17 (s, 3H).

reactant | 4-(2-methyl,5-nitroanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.200 mmol, 75 mg | CC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C=C1)[N+](=O)[O-] | C17H12F3N5O2
reactant | tin chloride | 0.800 mmol, 152 mg | [Sn](Cl)(Cl)(Cl)Cl
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(5-Amino-2-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | 33 mg, 44% | Cl.NC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C1)C | InChI=1S/C17H14F3N5.ClH/c1-10-4-5-12(21)7-13(10)23-15-8-14(17(18,19)20)24-16(25-15)11-3-2-6-22-9-11;/h2-9H,21H2,1H3,(H,23,24,25);1H
